US07732378B2
2. Synthesis of 6-Guanidinohexanoic acid
6.5 g (50 mmol) 6-aminohexanoic acid and 6.9 g (50 mmol) sodium carbonate were dissolved in 50 mL water. 6.2 g (50 mmol) amino-iminomethane sulphonic acid was added under stirring to the solution. After 20 hours, the product was filtered and washed with acetic acid, methanol and then ether. Yield: 6.6 g (76%).

reactant | 6-aminohexanoic acid | 50 mmol, 6.5 g | NCCCCCC(=O)O | C6H13NO2
reactant | sodium carbonate | 50 mmol, 6.9 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | amino-iminomethane sulphonic acid | 50 mmol, 6.2 g | NC(S(=O)(=O)O)=N | CH4N2O3S
solvent | water | 50 mL | O | H2O
product | 6-Guanidinohexanoic acid | N(C(=N)N)CCCCCC(=O)O | C7H15N3O2
